US06121202
Preparation of 2-(α,α,α-Trifluoro-p-tolyl)-4,6-di{[5-(trifluoromethyl)-3-thienyl]oxy}pyrimidine
A mixture of 4,6-dichloro-2-(α,α,α-trifluoro-p-tolyl)pyrimidine (2.15 g, 7.34 mmol) and 3-hydroxy-2-(trifluoromethyl)thiophene (2.47 g, 14.7 mmol) in dimethylformamide is treated with K2CO3 (2.52 g, 18.3 mmol), heated at 100° C. for 3 hours, cooled to room temperature, poured onto water and neutralized with 6N HCL to pH 6-7. The resultant reaction mixture is extracted with ether. The ether extracts are washed sequentially with water and brine, dried over MgSO4 and concentrated in vacuo to give a yellow solid residue. The residue is purified by flash chromatography (silica gel, methylene chloride) to afford the title product as an off-white solid, 3.03 g (74%), mp 93-95° C. identified by 1HNMR, 13CNMR, mass spectral and elemental analyses.

reactant | 4,6-dichloro-2-(α,α,α-trifluoro-p-tolyl)pyrimidine | 7.34 mmol, 2.15 g | ClC1=NC(=NC(=C1)Cl)C1=CC=C(C=C1)C(F)(F)F | C11H5Cl2F3N2
reactant | 3-hydroxy-2-(trifluoromethyl)thiophene | 14.7 mmol, 2.47 g | OC1=C(SC=C1)C(F)(F)F | C5H3F3OS
reactant | K2CO3 | 18.3 mmol, 2.52 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(α,α,α-Trifluoro-p-tolyl)-4,6-di{[5-(trifluoromethyl)-3-thienyl]oxy}pyrimidine | FC(C1=CC=C(C=C1)C1=NC(=CC(=N1)OC1=CSC(=C1)C(F)(F)F)OC1=CSC(=C1)C(F)(F)F)(F)F | C21H9F9N2O2S2
